US07071225B2
Step A. N-[(R)-2-(1,4-Dimethoxy-naphthalen-2-yl)-1-methyl-2-oxo-ethyl]-2,2,2-trifluoro-acetamide
To a suspension of AlCl3 (3.8 g, 28.6 mmol) in dichloromethane (100 mL) was added a solution of 1,4-dimethoxynaphthalene (4.88 g, 25.9 mmol) in dichloromethane (50 mL). To this mixture was added a solution of (R)-N-trifluoroacetylalanine (16 g, 86.5 mmol) in CH2Cl2 (50 mL); this mixture was stirred at room temperature for 3 h. The reaction mixture was poured slowly into ice (200 g) to quench the reaction and the organic layer was separated and dried (MgSO4). The solvent was evaporated and the residue was purified by flash chromatography (silica gel, ethyl acetate/hexane: 1/9) to give a yellow oil (3 g): 1H NMR (DMSO-d6) δ 1.24 (d, 3H, CH3), 3.93 (s, 3H, OCH3), 4.01 (s, 3H, OCH3), 5.51 (m, 1H), 6.99 (s, 1H, Ar—H), 7.96 (m, 2H, Ar—H), 8.17 (m, 2H, Ar—H), 9.83 (d, NH); MS 356 (M+1).

reactant | AlCl3 | 28.6 mmol, 3.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,4-dimethoxynaphthalene | 25.9 mmol, 4.88 g | COC1=CC=C(C2=CC=CC=C12)OC | C12H12O2
reactant | (R)-N-trifluoroacetylalanine | 86.5 mmol, 16 g | FC(C(=O)N[C@H](C)C(=O)O)(F)F | C5H6F3NO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[(R)-2-(1,4-Dimethoxy-naphthalen-2-yl)-1-methyl-2-oxo-ethyl]-2,2,2-trifluoro-acetamide | 3 g | COC1=C(C=C(C2=CC=CC=C12)OC)C([C@@H](C)NC(C(F)(F)F)=O)=O | C17H16F3NO4
